US09023840B2
Step 1: ethyl 4-(3-hydroxyazetidin-1-yl)benzoate
A mixture of ethyl 4-fluorobenzoate (0.841 g, 5.00 mmol, Aldrich: Cat. #102644), azetidin-3-ol hydrochloride (0.438 g, 4.00 mmol, Aldrich: Cat. #680079) and potassium carbonate (1.38 g, 9.98 mmol) in dimethyl sulfoxide (4 mL) was heated at 180° C. for 2 hours. After cooling, the mixture was diluted with ethyl acetate (50 mL), and washed with water and brine. The organic layer was dried over MgSO4, filtered, and concentrated under reduced pressure. The residue was purified by flash chromatography on a silica gel column with ethyl acetate in hexane (0-50%) to afford the desired product (0.643 g, 72.6%). LCMS (M+H)+: m/z=222.1.

reactant | ethyl 4-fluorobenzoate | 5.00 mmol, 0.841 g | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | azetidin-3-ol hydrochloride | 4.00 mmol, 0.438 g | Cl.N1CC(C1)O
reactant | potassium carbonate | 9.98 mmol, 1.38 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 4 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 4-(3-hydroxyazetidin-1-yl)benzoate | 0.643 g, 72.6% | OC1CN(C1)C1=CC=C(C(=O)OCC)C=C1 | C12H15NO3
